US07829715B2
In a mixture of 0.38 g of sodium tert-butoxide, 60 ml of toluene and 3 ml of DMF, 2.96 g of (R)-quinuclidin-3-ol was allowed to react with 6.00 g of (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid 2-methylpropan-2-yl ester for 8 hours while evaporating the solvent, thereby obtaining 0.274 g of a solifenacin-containing composition.

reactant | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
reactant | DMF | 3 ml | CN(C)C=O | C3H7NO
reactant | (R)-quinuclidin-3-ol | 2.96 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | (S)-1-phenyl-1,2,3,4-tetrahydroisoquinoline-2-carboxylic acid 2-methylpropan-2-yl ester | 6.00 g | CC(C)(C)OC(=O)N1[C@H](C2=CC=CC=C2CC1)C1=CC=CC=C1 | C20H23NO2
solvent | sodium tert-butoxide | 0.38 g | CC(C)([O-])C.[Na+]
product | solifenacin | 0.274 g | C=1C=CC(=CC1)[C@H]2C=3C=CC=CC3CCN2C(=O)O[C@H]4CN5CCC4CC5 | C23H26N2O2
